* Ring oscillator testbench---simple check of ring oscillator
* at several trim levels

.include "pshort_tt.cor"
.include "nlowvt_tt.cor"

.include "ring_osc2x13.spi"

.option TEMP=27
* .option RELTOL=1.0E-1
* .option RSHUNT=1.0E20

* Instantiate the ring oscillator
* Tie trims together in four sets

X0 vdd vss clockp0 clockp1 reset trim00 trim01 trim02 trim03 trim04 trim05 trim06
+ trim07 trim08 trim09 trim10 trim11 trim12 trim13 trim14 trim15 trim16 trim17
+ trim18 trim19 trim20 trim21 trim22 trim23 trim24 trim25 ring_osc2x13

* Power supply (note that all logic is 1.8V here)

V00 vdd vss PWL(0n 0.0 30n 1.8)
V01 vss 0 0.0

* Trim values (connect resistors to power or ground)
* divider value = 12

V02 trim00 gnd PULSE(0.0 1.8 40n 2n 2n 1u 2u)
V03 trim01 gnd PULSE(0.0 1.8 80n 2n 2n 1u 2u)
V04 trim02 gnd PULSE(0.0 1.8 120n 2n 2n 1u 2u)
V05 trim03 gnd PULSE(0.0 1.8 160n 2n 2n 1u 2u)
V06 trim04 gnd PULSE(0.0 1.8 200n 2n 2n 1u 2u)
V07 trim05 gnd PULSE(0.0 1.8 240n 2n 2n 1u 2u)
V08 trim06 gnd PULSE(0.0 1.8 280n 2n 2n 1u 2u)
V09 trim07 gnd PULSE(0.0 1.8 320n 2n 2n 1u 2u)
V10 trim08 gnd PULSE(0.0 1.8 360n 2n 2n 1u 2u)
V11 trim09 gnd PULSE(0.0 1.8 400n 2n 2n 1u 2u)
V12 trim10 gnd PULSE(0.0 1.8 440n 2n 2n 1u 2u)
V13 trim11 gnd PULSE(0.0 1.8 480n 2n 2n 1u 2u)
V14 trim12 gnd PULSE(0.0 1.8 520n 2n 2n 1u 2u)
V15 trim13 gnd PULSE(0.0 1.8 560n 2n 2n 1u 2u)
V16 trim14 gnd PULSE(0.0 1.8 600n 2n 2n 1u 2u)
V17 trim15 gnd PULSE(0.0 1.8 640n 2n 2n 1u 2u)
V18 trim16 gnd PULSE(0.0 1.8 680n 2n 2n 1u 2u)
V19 trim17 gnd PULSE(0.0 1.8 720n 2n 2n 1u 2u)
V20 trim18 gnd PULSE(0.0 1.8 760n 2n 2n 1u 2u)
V21 trim19 gnd PULSE(0.0 1.8 800n 2n 2n 1u 2u)
V22 trim20 gnd PULSE(0.0 1.8 840n 2n 2n 1u 2u)
V23 trim21 gnd PULSE(0.0 1.8 880n 2n 2n 1u 2u)
V24 trim22 gnd PULSE(0.0 1.8 920n 2n 2n 1u 2u)
V25 trim23 gnd PULSE(0.0 1.8 960n 2n 2n 1u 2u)
V26 trim24 gnd PULSE(0.0 1.8 800n 2n 2n 1u 2u)
V27 trim25 gnd PULSE(0.0 1.8 840n 2n 2n 1u 2u)

* Reset
V6 reset gnd PWL(0n 1.8 8n 1.8 10n 0.0)

* Transient analysis
.control
tran 100p 1u
plot V(clockp0) V(clockp1)
.endc
.end
